US05019583
To a stirred solution of 3-methyl butanol (2.0 g, 22.6 mmol) and acryloyl chloride (2.05 g, 22.6 mmol) in dichloromethane (5 ml) at 0° C. is added dropwise triethylamine (3.2 ml, 22.7 mmol). The solution is stirred for 30 minutes at room temperature and then concentrated to a residue. The residue is washed with hexanes (2×10 ml) and the resultant combined organics are concentrated and filtered through a plug of silica to give 3.0 g of 3-methylbutyl acrylate as an oil, 93% yield.

reactant | 3-methyl butanol | 22.6 mmol, 2.0 g | CC(CCO)C | C5H12O
reactant | acryloyl chloride | 22.6 mmol, 2.05 g | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 22.7 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-methylbutyl acrylate | 3.0 g, 93% yield | C(C=C)(=O)OCCC(C)C | C8H14O2
